US04018773
trans-5,6,7,8-Tetrahydro-7-[4-(2-methoxyphenyl)-1-piperazinyl]-1,4,6-naphthalenetriol
A solution of 13.1 g of 6,7-epoxy-5,6,7,8-tetrahydro-1,4-diacetoxynaphthalene and 29.8 g of 1-(o-methoxyphenyl)piperazine in 200 ml of xylene is refluxed under nitrogen for 48 hours. The reaction mixture is then cooled, the crystalline precipitate filtered, washed with ether, and dried in vacuo to afford 10.55 g of crude crystalline product. Recrystallization of 7.50 g of this material from ethyl acetate/ethanol gives 4.0 g of the title compound, melting point 222°-224° C.

reactant | 6,7-epoxy-5,6,7,8-tetrahydro-1,4-diacetoxynaphthalene | 13.1 g | O1C2CC=3C(=CC=C(C3CC21)OC(C)=O)OC(C)=O | C14H14O5
reactant | 1-(o-methoxyphenyl)piperazine | 29.8 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | trans-5,6,7,8-Tetrahydro-7-[4-(2-methoxyphenyl)-1-piperazinyl]-1,4,6-naphthalenetriol | 4.0 g | COC1=C(C=CC=C1)N1CCN(CC1)[C@H]1[C@@H](CC=2C(=CC=C(C2C1)O)O)O | C21H26N2O4
